US07202363B2
N-(4-{4-amino-7-[(1E)-4-aminobut-1-enyl]thieno[3,2-c]pyridin-3-yl}-2-methoxyphenyl)-1-methyl-1H-indole-2-carboxamide tetraacetate
A suspension of N-(4-{4-amino-7-[(1E)-4-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)but-1-enyl]thieno[3,2-c]pyridin-3-yl}-2-methoxyphenyl)-1-methyl-1H-indole-2-carboxamide (0.024 g, 0.038 mmol) in ethanol (5 mL) was treated with anhydrous hydrazine (0.01 g, 0.30 mmol). The reaction mixture was stirred at room temperature for 15 hours. The solvent was removed and the crude material was purified by preparative HPLC chromatography to give 0.001 g (1%) of the title compound as a tetraacetate salt. 1H NMR (DMSO-d6, 400 MHz) δ 9.55 (s, 1H), 8.05 (d, 1H), 8.03 (s, 1H), 7.70 (d, 1H), 7.60 (m, 2H), 7.35 (m, 2H), 7.20 (m, 1H), 7.15 (m, 1H), 7.10 (m, 1H), 6.60 (d, 1H), 6.30–6.20 (m, 1H), 5.60 (s, 3H), 4.05 (s, 3H), 3.95 (s, 3H), 2.75 (t, 2H), 2.40 (q, 2H); LCMS (conditions a) Rt 2.38 min (95%), M+ 498.3.

reactant | N-(4-{4-amino-7-[(1E)-4-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)but-1-enyl]thieno[3,2-c]pyridin-3-yl}-2-methoxyphenyl)-1-methyl-1H-indole-2-carboxamide | 0.038 mmol, 0.024 g | NC1=NC=C(C2=C1C(=CS2)C2=CC(=C(C=C2)NC(=O)C=2N(C1=CC=CC=C1C2)C)OC)\C=C\CCN2C(C1=CC=CC=C1C2=O)=O | C36H29N5O4S
reactant | hydrazine | 0.30 mmol, 0.01 g | NN | H4N2
reactant | ethanol | 5 mL | C(C)O | C2H6O
product | N-(4-{4-amino-7-[(1E)-4-aminobut-1-enyl]thieno[3,2-c]pyridin-3-yl}-2-methoxyphenyl)-1-methyl-1H-indole-2-carboxamide tetraacetate | 0.001 g, 1% | C(C)(=O)O.C(C)(=O)O.C(C)(=O)O.C(C)(=O)O.NC1=NC=C(C2=C1C(=CS2)C2=CC(=C(C=C2)NC(=O)C=2N(C1=CC=CC=C1C2)C)OC)\C=C\CCN | InChI=1S/C28H27N5O2S.4C2H4O2/c1-33-22-9-4-3-7-18(22)13-23(33)28(34)32-21-11-10-17(14-24(21)35-2)20-16-36-26-19(8-5-6-12-29)15-31-27(30)25(20)26;4*1-2(3)4/h3-5,7-11,13-16H,6,12,29H2,1-2H3,(H2,30,31)(H,32,34);4*1H3,(H,3,4)/b8-5+;;;;
